US08809534B2
Methyl 7-(4-amino-3-fluorophenoxy)thieno[3,2-b]pyridine-2-carboxylate (1.62 g, 5.1 mmol) was taken up in 55 mL of ethyl acetate followed by the dropwise addition of 2-fluoro-5-methylphenyl isocyanate (0.85 g, 5.6 mmol) in 5 mL ethyl acetate. The solution afforded a lavender solid after stirring at room temperature for overnight. The solid was collected by filtration and washed with diethyl ether to give methyl 7-(3-fluoro-4-(3-(2-fluoro-5-methylphenyl)ureido)phenoxy)thieno[3,2-b]pyridine-2-carboxylate as an off white solid. Yield: 1.75 g (73%); MS [M+H]+ 470.1; 1HNMR (DMSO-d6) δ: 9.2 (s, 1H), 9.0 (s, 1H), 8.6 (d, 1H), 8.3 (t, 1H, 8.1 (s, 1H), 8.0 (d, 1H), 7.5 (d, 1H), 7.2 (m, 2H), 6.8 (m, 2H), 3.9 (s, 3H), 2.1 (s, 3H) ppm.

reactant | Methyl 7-(4-amino-3-fluorophenoxy)thieno[3,2-b]pyridine-2-carboxylate | 5.1 mmol, 1.62 g | NC1=C(C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=C1)F | C15H11FN2O3S
reactant | 2-fluoro-5-methylphenyl isocyanate | 5.6 mmol, 0.85 g | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
solvent | ethyl acetate | 55 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | methyl 7-(3-fluoro-4-(3-(2-fluoro-5-methylphenyl)ureido)phenoxy)thieno[3,2-b]pyridine-2-carboxylate | FC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=CC1NC(=O)NC1=C(C=CC(=C1)C)F | C23H17F2N3O4S
